US06573273B1
Using the general method of Example 143, 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.50 g, 5.01 mmol) was reacted with 4-morpholinecarbonyl chloride (830 mg, 5.51 mmol) to provide 1.6 g of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}morpholine-4-carboxamide as a white powder, m.p. 194-196° C. Analysis: Calculated for C21H28N6O3: %C, 61.15; %H, 6.84; %N, 20.37; Found: %C, 60.82; %H, 6.94; %N, 20.34.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.01 mmol, 1.50 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | 4-morpholinecarbonyl chloride | 5.51 mmol, 830 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}morpholine-4-carboxamide | 1.6 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)N2CCOCC2)CCOC | C21H28N6O3
